US07485752B2
4-(2-methoxy-ethoxy)-benzoic acid N′-[3-(2′,3′-dimethyl-biphenyl-2-yl)-propionyl]-N′-isopropyl-hydrazide
A solution of 3-(2′,3′-dimethyl-biphenyl-2-yl)-propionic acid (110 mg, 0.44 mmoles) and 4-(2-methoxy-ethoxy)-benzoic acid-N′-isopropyl hydrazide (100 mg, 0.40 mmoles) in DMF (3 mL) was treated with triethylamine (0.16 mL, 1.19 mmoles), HOBT (64 mg, 0.48 mmoles) and EDCI (91 mg, 0.48 mmoles) at room temperature for 48 h. The reaction mixture was partitioned between 1N HCl and ethyl acetate. The organic layer was washed successively with water, 1N NaOH and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with 10% ethyl acetate/hexanes to afford the product (30 mg, 16%). LC-MS m/e 489.40 (M+H+)

reactant | 3-(2′,3′-dimethyl-biphenyl-2-yl)-propionic acid | 0.44 mmoles, 110 mg | CC1=C(C=CC=C1C)C1=C(C=CC=C1)CCC(=O)O | C17H18O2
reactant | 4-(2-methoxy-ethoxy)-benzoic acid-N′-isopropyl hydrazide | 0.40 mmoles, 100 mg | C(C)(C)NNC(C1=CC=C(C=C1)OCCOC)=O | C13H20N2O3
reactant | triethylamine | 1.19 mmoles, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.48 mmoles, 64 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.48 mmoles, 91 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(2-methoxy-ethoxy)-benzoic acid N′-[3-(2′,3′-dimethyl-biphenyl-2-yl)-propionyl]-N′-isopropyl-hydrazide | 30 mg, 16% | CC1=C(C=CC=C1C)C1=C(C=CC=C1)CCC(=O)N(NC(C1=CC=C(C=C1)OCCOC)=O)C(C)C | C30H36N2O4
